US07442708B2
Synthesis of 1-methoxy-2-methylindolizine
This compound is obtained starting with 2-(methoxymethyl)pyridine and chloroacetone, using the Tschitschibabin reaction. The product is isolated in the form of a yellow oil which crystallizes in the freezer.

reactant | 2-(methoxymethyl)pyridine | COCC1=NC=CC=C1 | C7H9NO
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
product | 1-methoxy-2-methylindolizine | COC=1C(=CN2C=CC=CC12)C | C10H11NO
